US07384952B2
To 4-hydroxybenzoic acid (1.06 g) is added successively methylene chloride (30 mL), 1-(3-ethoxybenzyl)-4-piperazin-1-yl-1H-pyrazolo[3,4-d]pyrimidine dihydrochloride (3.02 g), 1-hydroxybenzotriazole (1.25 g), triethylamine (3.7 mL) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.78 g). The mixture is stirred at room temperature for 17 hours. The reaction mixture is diluted with chloroform and thereto is added a saturated sodium hydrogencarbonate solution. After stirring, the organic layer is separated and evaporated to remove solvent. The resultant residue is purified by flash column chromatography on silica gel (Solvent; chloroform:methanol=50:1) to give 1-(3-ethoxybenzyl)-4-[4-(4-hydroxybenzoyl)piperazin-1-yl]-1H-pyrazolo[3,4-d]pyrimidine (2.70 g, yield; 80%) as an amorphous powder. MS (APCI) m/z: 459 [M+H]+

reactant | 4-hydroxybenzoic acid | 1.06 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 1-(3-ethoxybenzyl)-4-piperazin-1-yl-1H-pyrazolo[3,4-d]pyrimidine dihydrochloride | 3.02 g | Cl.Cl.C(C)OC=1C=C(CN2N=CC=3C2=NC=NC3N3CCNCC3)C=CC1
reactant | 1-hydroxybenzotriazole | 1.25 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.78 g | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 3.7 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-ethoxybenzyl)-4-[4-(4-hydroxybenzoyl)piperazin-1-yl]-1H-pyrazolo[3,4-d]pyrimidine | 2.70 g, yield; 80% | C(C)OC=1C=C(CN2N=CC=3C2=NC=NC3N3CCN(CC3)C(C3=CC=C(C=C3)O)=O)C=CC1 | C25H26N6O3
